US06846832B2
a) 2-Fluoro-5-methoxy-benzoic Acid
To a vigorously stirred mixture of 4-fluoro-3-methylanisole (12.0 g, 85.6 mmol) and pyridine (41.7 g, 527 mmol) in water (170 mL) at 50° C. was added portion-wise potassium permanganate (44.65 g, mmol) and then maintained at this temperature for 2 h. The resulting mixture was then allowed to cool to RT and allowed to stand overnight and then heated for a further 5 h at 50° C. Then the mixture was filtered over celite and then the residue was washed with sulfuric acid (conc. 100 mL). The combined filtrates were then half-evaporated and neutralised with potasssium carbonate. Then the mixture was washed with diethyl ether and then the aqueous layer was acidified with hydrochloric acid (conc.) and the product extracted with diethyl ether. The combined extracts were then dried over sodium sulphate. After filtration and evaporation the crude solid was recrystallised from 1,2,-dichloroethane to afford the title compound (4.4 g, 30%) as a light pink solid. MS m/e=168.9 (M−H).

reactant | 4-fluoro-3-methylanisole | 85.6 mmol, 12.0 g | FC1=C(C=C(C=C1)OC)C | C8H9FO
reactant | pyridine | 527 mmol, 41.7 g | N1=CC=CC=C1 | C5H5N
reactant | potassium permanganate | 44.65 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 170 mL | O | H2O
product | 2-Fluoro-5-methoxy-benzoic Acid | 4.4 g, 30% | FC1=C(C(=O)O)C=C(C=C1)OC | C8H7FO3
